US07902400B2
A mixture of 2 ml of chloroform and 258 mg of zinc (II) chloride was stirred at room temperature for 5 minutes. Thereafter, a mixture of 300 mg of 7-[3,5-dimethoxy-4-(2-propynyloxy)benzoyl]-7-azabicyclo[4.1.0]heptane and 2 ml of chloroform was added dropwise thereto at room temperature, and the resulting mixture was stirred at room temperature for 5 hours. Then, an aqueous saturated ammonium chloride solution was added to the reaction mixture, and this was extracted with chloroform. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.16 g of N-(2-chlorocyclohexyl)-3,5-dimethoxy-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 109 of the present invention) represented by the formula:

reactant | 7-[3,5-dimethoxy-4-(2-propynyloxy)benzoyl]-7-azabicyclo[4.1.0]heptane | 300 mg | COC=1C=C(C(=O)N2C3CCCCC23)C=C(C1OCC#C)OC | C18H21NO4
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc (II) chloride | 258 mg | [Cl-].[Zn+2].[Cl-]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-chlorocyclohexyl)-3,5-dimethoxy-4-(2-propynyloxy)benzamide | 0.16 g | ClC1C(CCCC1)NC(C1=CC(=C(C(=C1)OC)OCC#C)OC)=O | C18H22ClNO4
